US08440689B2
A. Methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(m-tolylamino)nicotinate
A solution of methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate (198 mg, 0.656 mmol), tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (562 mg, 2.62 mmol) and Et3N (0.402 mL, 2.89 mmol) was stirred at reflux overnight. To the resulting mixture were added H2O and EtOAc. The aqueous phase was extracted with EtOAc. The organic layers were combined, washed with brine, dried over MgSO4, and evaporated. The residue was triturated with EtOAc. The resulting solid was filtered, rinsed with EtOAc, and dried to give the title compound as a yellow solid (250 mg, 79%). 1H NMR (500 MHz, CDCl3) δ ppm 1.23-1.77 (m, 17H), 2.34 (s, 3H), 3.94 (br s, 3H), 3.98 (br s, 1H), 4.80 (s, 1H), 6.15 (s, 1H), 6.91 (d, J=5.37 Hz, 1H), 7.21 (t, J=7.81 Hz, 1H), 7.29 (s, 1H), 7.47-7.55 (m, 1H), 10.64 (br s, 1H).

reactant | methyl 6-chloro-4-cyano-2-(m-tolylamino)nicotinate | 0.656 mmol, 198 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C | C15H12ClN3O2
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 2.62 mmol, 562 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | Et3N | 2.89 mmol, 0.402 mL | CCN(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(m-tolylamino)nicotinate | 250 mg, 79% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC=1C=C(C=CC1)C | C26H33N5O4
